US04851526
1-Butyl-hexahydro-1H-azepine-3-carbonitrile
To 50 mL of acetonitrile is added 1 g (8.0 mmol) of hexahydro-1H-azepine-3-carbonitrile and 2.7 g (15 mmol) of iodobutane. Heat the reaction under reflux and monitor the reaction by thin-layer chromatography. Upon completion remove the solvent in vacuo and add 50 mL sat. sodium bicarbonate and 50 mL methylene chloride. Separate the organic layer and dry over Na2SO4. Filter off the drying agent and remove the solvent in vacuo to obtain the title compound.

reactant | hexahydro-1H-azepine-3-carbonitrile | 8.0 mmol, 1 g | N1CC(CCCC1)C#N | C7H12N2
reactant | iodobutane | 15 mmol, 2.7 g | ICCCC | C4H9I
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-Butyl-hexahydro-1H-azepine-3-carbonitrile | C(CCC)N1CC(CCCC1)C#N | C11H20N2
